data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_602002_2,[C:1]1([N:5]([H:13])[H:14])([H:10])[C:3]([N:2]([N:4]([H:11])[H:12])[H:9])([C:6](=[C:7]([H:17])[H:18])[H:16])[N:8]1[H:15]>>[C:1]([N:2]([N:4]([H:11])[H:12])[H:9])(/[C:3]([C:6](=[C:7]([H:17])[H:18])[H:16])=[N:8]\[H:15])([N:5]([H:13])[H:14])[H:10],42.62293750000154
MR_492285_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:12])([H:13])[H:14])([N:4]([O:6][H:8])[H:10])[N:5]([O:7][H:9])[H:11]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:12])([H:13])[H:14])([N:4]([N:5]([O:7][H:9])[H:11])[H:10])[O:6][H:8],70.62575249999767
MR_203846_1,[C:1]([N:3](/[C:4]([N:7]([H:12])[H:13])=[N:9]/[N:6]([H:10])[H:11])[C:5]([C:2]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:4](\[N:7]([H:12])[H:13])[N:9]([C:5]([C:2]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])[N:6]([H:10])[H:11])([H:14])([H:15])[H:16],48.89417249996967
MR_643097_0,[N:1](/[C:2]([N:5]([H:12])[H:13])=[N:6]\[N:4]([H:10])[H:11])([N:3]([H:8])[H:9])[H:7]>>[N:1](=[C:2](\[N:5]([H:12])[H:13])[N:6]([N:4]([H:10])[H:11])[H:7])\[N:3]([H:8])[H:9],42.55454000003155
MR_44705_2,[C:1]([c:6]1[n:3]([H:11])[c:4](=[O:8])[n:2]([H:10])[c:5]1[O:7][H:9])([H:12])([H:13])[H:14]>>[C:1]([C:6]1(/[C:5](=[N:2]/[H:10])[O:7][H:9])[N:3]([H:11])[C:4]1=[O:8])([H:12])([H:13])[H:14],70.40110749999414
MR_51995_0,[C:1](\[C:2]([N:6]([C:3]([N:5]([H:8])[H:10])([H:14])[H:15])[H:9])([H:12])[H:13])([C:4]([H:16])([H:17])[H:18])=[N:7]/[H:11]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([N:7]([H:10])[H:11])[C:2]([H:12])([H:13])[N:6]([H:9])[C:3]([H:14])([H:15])[N:5]1[H:8],51.51649499998342
MR_515620_0,[C:1]([C:4](/[C:3]([N:6]([H:10])[H:11])=[C:9](/[N:8]([H:14])[H:15])[H:16])=[C:5](/[C:2]([H:20])([H:21])[H:22])[N:7]([H:12])[H:13])([H:17])([H:18])[H:19]>>[C:1]([C:4]1=[C:3]([N:6]([H:10])[H:11])[C:9]([N:8]([H:14])[H:15])([H:16])[C:5]1([C:2]([H:20])([H:21])[H:22])[N:7]([H:12])[H:13])([H:17])([H:18])[H:19],30.044072499978824
MR_524426_1,[C:1]([C:4](=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])/[N:8]=[C:3](/[N:5]([H:10])[H:11])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[N:8][C:3]([N:5]([H:10])[H:11])([O:7][H:9])[C:6]1([C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15],45.11599499998496
MR_486076_0,[C:1](=[N:2]/[H:10])(\[C:3]1([H:11])[C:4]([O:7][H:9])([H:12])[O:6]1)[O:5][H:8]>>[C:1]1([N:2]([H:9])[H:10])([O:5][H:8])[C:3]([C:4](=[O:7])[H:12])([H:11])[O:6]1,20.31531250003681
MR_611263_1,[C:1]1([N:5]([H:10])[H:11])([N:6]([H:9])[H:12])[C:2]([H:17])([H:18])[C:3]1=[C:4]([N:7]([H:15])[H:16])[N:8]([H:13])[H:14]>>[C:1]1([N:6]([H:9])[H:12])=[C:3]([C:4]([N:5]([H:10])[H:11])([N:7]([H:15])[H:16])[N:8]([H:13])[H:14])[C:2]1([H:17])[H:18],65.05794500003702
MR_647169_1,[C:1]([C:2]([C:3]([O:9][H:12])([H:19])[H:20])([N:6]([H:17])[H:18])[O:8][H:11])([N:4]([H:13])[H:14])([N:5]([H:15])[H:16])[O:7][H:10]>>[C:1]([C:3]([C:2]([N:6]([H:17])[H:18])([O:8][H:11])[O:9][H:12])([H:19])[H:20])([N:4]([H:13])[H:14])([N:5]([H:15])[H:16])[O:7][H:10],64.74168499997944
MR_152295_0,[C:1](/[N:7]=[N:5]/[N:6]=[C:4]([C:2]([H:11])([H:12])[H:16])[C:3]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([N:7]1[C:4]([C:2]([H:11])([H:12])[H:16])([C:3]([H:13])([H:14])[H:15])[N:6]=[N:5]1)([H:8])([H:9])[H:10],35.00822500000112
MR_545988_1,[C:1]([N:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])([N:3]([N:6]([H:14])[H:15])[N:7]([H:16])[H:17])([N:8]([H:18])[H:19])[H:9]>>[C:1]([N:2]([N:3]([N:6]([H:14])[H:15])[N:7]([H:16])[H:17])[N:4]([H:10])[H:11])([N:5]([H:12])[H:13])([N:8]([H:18])[H:19])[H:9],56.38526750003251
MR_621842_0,[N:1](/[C:3](=[N:6]\[C:2](=[N:5]\[O:4][H:7])[H:10])[H:11])([H:8])[H:9]>>[N:1]([C:3]1([H:11])[N:5]([O:4][H:7])[C:2]([H:10])=[N:6]1)([H:8])[H:9],37.61172249999106
MR_130105_1,[C:1]([C:5]1([C:8]([H:17])([H:20])[H:21])[N:4]([H:9])[C:7]1([C:6]([C:2]([H:14])([H:15])[H:19])=[C:3]([H:16])[H:18])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:5]([N:4]([C:7](=[C:6]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[H:10])[H:9])=[C:8]([H:20])[H:21])([H:11])([H:12])[H:13],58.54951499999004
MR_542647_0,[C:1]([C:2]([N:7]=[O:8])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:6]([C:5]([H:18])([H:19])[H:20])=[O:9]>>[C:1]([C:2]([C:6]([C:5]([H:18])([H:19])[H:20])=[O:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[N:7]=[O:8],67.16508999996037
MR_518350_2,[C:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:8]\[C:2]([H:12])([H:13])[H:14])([O:5][H:9])([O:6][H:10])[O:7][H:11]>>[C:1]1([O:5][H:9])([O:6][H:10])[C@:4]([C:3]([H:15])([H:16])[H:17])([O:7][H:11])[N:8]1[C:2]([H:12])([H:13])[H:14],61.60292999998546
MR_631033_1,[C@:1](/[C:2]([N:4]([H:13])[H:14])=[N:7]/[N:3]([H:11])[H:12])([C:5](=[O:8])[H:15])([O:6][H:9])[H:10]>>[C:1](=[C:2](\[N:4]([H:13])[H:14])[N:7]([N:3]([H:11])[H:12])[C:5](=[O:8])[H:15])(\[O:6][H:9])[H:10],43.14313499997226
MR_226437_0,[C:1]1(/[C:5]([C:4]([H:14])([H:15])[H:16])=[N:7]/[H:10])([H:8])[C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[O:6]1>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[C:5]([C:4]([H:14])([H:15])[H:16])=[N:7]/[H:10])[H:9])(=[O:6])[H:8],57.30079000003954
